US06297257B1
Synthesis of 1-(6-Amino-3-cyclopentyloxy-4-methoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl-methyl)-ethanone
Operating analogously to example 31 using 1-(3-cyclopentyloxy-4-methoxy-6-nitro-phenyl)-2-(3,5-dichloro-pyridin-4-yl-methyl)-ethanone (26.75 g, 63 moles), obtained as described in example 38, and iron dust (21.1 g, 378 moles) in acetic acid (120 ml) 18.7 g of the title product were obtained (yield: 75%).

reactant | 1-(3-cyclopentyloxy-4-methoxy-6-nitro-phenyl)-2-(3,5-dichloro-pyridin-4-yl-methyl)-ethanone | 63 moles, 26.75 g | C1(CCCC1)OC=1C=C(C(=CC1OC)[N+](=O)[O-])C(CCC1=C(C=NC=C1Cl)Cl)=O | C20H20Cl2N2O5
solvent | acetic acid | 120 ml, 18.7 g | C(C)(=O)O | C2H4O2
catalyst | iron | 378 moles, 21.1 g | [Fe] | Fe
product | 1-(6-Amino-3-cyclopentyloxy-4-methoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl-methyl)-ethanone | yield: 75% | NC1=CC(=C(C=C1C(CCC1=C(C=NC=C1Cl)Cl)=O)OC1CCCC1)OC | C20H22Cl2N2O3
